US07241761B2
Preparation of 2-Isobutoxy-5-methanesulfonyl-benzoic acid
Prepared in analogy to example 2.2 (b) from from 2-chloro-5-methanesulfonyl-benzoic acid and isobutanol.

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
solvent | isobutanol | C(C(C)C)O | C4H10O
product | 2-Isobutoxy-5-methanesulfonyl-benzoic acid | C(C(C)C)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C12H16O5S
